US05409926
2-methoxymethyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-6-nitroquinazolin-4(3H )-one
2-methoxymethylquinazolin-4(3H)-one was alkylated in the same manner as described above for 6-nitro-2-n-propyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one to give the title compound. 200 MHz-1H-NMR (CDCl3): 3.43 (s, 3H), 4.36 (s, 2H), 5.46 (bs, 2H), 6.90 (m, 6H), 7.00 (d, 2H, J=8.2 Hz), 7.12 (d, 2H, J=8.2H), 7.19-7.38 (m, 10H), 7.48 (m, 2H), 7.84(d, 1H, J=8.9 Hz), 7.92 (m, 1H), 8.56 (dd, 1H, J=2.7, 9.01 Hz), 9.20 (d, 1H, J=2.6 Hz).

reactant | 2-methoxymethylquinazolin-4(3H)-one | COCC1=NC2=CC=CC=C2C(N1)=O | C10H10N2O2
reactant | 6-nitro-2-n-propyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-quinazolin-4(3H)-one | [N+](=O)([O-])C=1C=C2C(N(C(=NC2=CC1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C44H35N7O3
product | 2-methoxymethyl-3-[(2'-(N-triphenylmethyl-tetrazol-5-yl)-biphen-4-yl)-methyl]-6-nitroquinazolin-4(3H )-one | COCC1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)[N+](=O)[O-] | C43H33N7O4
